### PR TITLE
[Merged by Bors] - Feat (Analysis/Normed/Ring/Seminorm): add equivalence of MulRingNorms

### PR DESCRIPTION
**Pull request by amosturchet**
Include the definition of equivalence of `MulRingNorms` and the lemmas proving it is an equivalence relation. For this we add a new import (to `Mathlib.Analysis.SpecialFunctions.Pow.Real`).
We also include a lemma describing the values of a multiplicative ring norm on the naturals, stating that for all `n : ℕ` if `f : MulRingNorm R` then `f n ≤ n`

Co-authored-by: 
- David Kurniadi Angdinata <dka31@cantab.ac.uk>
- Fabrizio Barroero <fabrizio.barroero@uniroma3.it>
- Laura Capuano <laura.capuano@uniroma3.it>
- Nirvana Coppola <nirvanac93@gmail.com>
- María Inés de Frutos Fernández <maria.defrutos@uam.es>
- Silvain Rideau-Kikuchi <silvain.rideau-kikuchi@ens.fr>
- Sam van Gool <vangool@irif.fr>
- Francesco Veneziano <veneziano@dima.unige.it>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 1]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+lemma equiv_symm {R : Type*} [Ring R] (f g : MulRingNorm R) (hfg : equiv f g) : equiv g f := by
+  rcases hfg with ⟨c, hcpos, h⟩
+  use 1/c
+  constructor
+  · simp only [one_div, inv_pos, hcpos]
+  · replace h := congr_fun h
+    ext x
+    rw [← h x]
+    simp only [AddGroupSeminorm.toFun_eq_coe, MulRingSeminorm.toFun_eq_coe, one_div, map_nonneg]
+    exact Real.rpow_rpow_inv (apply_nonneg f x) (ne_of_lt hcpos).symm
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:346]:
```suggestion
   · ext x
    simpa [← congr_fun h x] using Real.rpow_rpow_inv (apply_nonneg f x) (ne_of_lt hcpos).symm
```
If you like short proof.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 2]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
 instance : Inhabited (MulRingNorm R) :=
   ⟨1⟩
 
+
+/-- Two multiplicative ring norms `f, g` on `R` are equivalent if there exists a positive constant
+  `c` such that for all `x ∈ R`, `(f x)^c = g x`.
+  This could be generalised to RingNorm, but MulRingNorm does not extend this. -/
+def equiv {R : Type*} [Ring R] (f : MulRingNorm R) (g : MulRingNorm R) :=
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:327]: You can add a 
```lean
variable {R : Type*} [Ring R]
```
line before this declaration and avoid having to repeat it everywhere.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 3]
```diff
@@ -344,3 +381,14 @@ def RingSeminorm.toRingNorm {K : Type*} [Field K] (f : RingSeminorm K) (hnt : f
...
+
+/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
+lemma MulRingNorm_nat_le_nat (n : ℕ) (f : MulRingNorm ℚ) : f n ≤ n := by
+  induction' n with n hn
+  · simp only [Nat.zero_eq, CharP.cast_eq_zero, map_zero, le_refl]
+  · simp only [Nat.cast_succ]
+    calc
+      f (↑n + 1) ≤ f (↑n) + f 1 := f.add_le' ↑n 1
+      _ = f (↑n) + 1 := by rw [map_one]
+      _ ≤ ↑n + 1 := add_le_add_right hn 1
```
Comment (mariainesdff) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:394]:
```suggestion
/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
lemma MulRingNorm_nat_le_nat {R : Type*} [Ring R] (n : ℕ) (f : MulRingNorm R) : f n ≤ n := by
  induction' n with n hn
  · simp only [Nat.cast_zero, map_zero, le_refl]
  · simp only [Nat.cast_succ]
    calc
      f (↑n + 1) ≤ f (↑n) + f 1 := f.add_le' ↑n 1
      _ = f (↑n) + 1 := by rw [map_one]
      _ ≤ ↑n + 1 := add_le_add_right hn 1
```

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 4]
```diff
@@ -344,3 +381,14 @@ def RingSeminorm.toRingNorm {K : Type*} [Field K] (f : RingSeminorm K) (hnt : f
 def normRingNorm (R : Type*) [NonUnitalNormedRing R] : RingNorm R :=
   { normAddGroupNorm R, normRingSeminorm R with }
 #align norm_ring_norm normRingNorm
+
+
+/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
+lemma MulRingNorm_nat_le_nat (n : ℕ) (f : MulRingNorm ℚ) : f n ≤ n := by
+  induction' n with n hn
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:388]: Can you use `induction` instead of `induction'`? The latter sooner or later will disappear.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean (hunk 3 above)
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:394]:
```suggestion
    calc
      f (n + 1) ≤ f (n) + f 1 := f.add_le' n 1
      _ = f (n) + 1 := by rw [map_one]
      _ ≤ n + 1 := add_le_add_right hn 1
```

Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:394]: Also, maybe this could be moved into the `MulRingNorm` namespace.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean (hunk 2 above)
Comment (amosturchet) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:327]: Added as suggested

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 5]
```diff
@@ -319,6 +320,43 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
 instance : Inhabited (MulRingNorm R) :=
   ⟨1⟩
 
+
+variable {R : Type*}
+variable [Ring R]
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:325]:
```suggestion
variable {R : Type*} [Ring R]
```
has the same effect.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 6]
```diff
@@ -319,6 +320,43 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+  ∃ c : ℝ, 0 < c ∧ (λ x : R => (f x) ^ c) = g
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+  1. is reflexive-/
+lemma equiv_refl {R : Type*} [Ring R] (f : MulRingNorm R) : equiv f f := by
+  exact ⟨1, by linarith, by simp only [Real.rpow_one]⟩
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+ 2. is symmetric-/
+lemma equiv_symm {R : Type*} [Ring R] (f g : MulRingNorm R) (hfg : equiv f g) : equiv g f := by
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:341]:
```suggestion
lemma equiv_symm (f g : MulRingNorm R) (hfg : equiv f g) : equiv g f := by
```

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 7]
```diff
@@ -319,6 +320,43 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+  rcases hfg with ⟨c, hcpos, h⟩
+  use 1/c
+  constructor
+  · simp only [one_div, inv_pos, hcpos]
+  ext x
+  simpa [← congr_fun h x] using Real.rpow_rpow_inv (apply_nonneg f x) (ne_of_lt hcpos).symm
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+ 3. is transitive-/
+lemma equiv_trans {R : Type*} [Ring R] (f g k : MulRingNorm R) (hfg : equiv f g) (hgk : equiv g k) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:351]:
```suggestion
lemma equiv_trans (f g k : MulRingNorm R) (hfg : equiv f g) (hgk : equiv g k) :
```

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 8]
```diff
@@ -344,3 +382,16 @@ def RingSeminorm.toRingNorm {K : Type*} [Field K] (f : RingSeminorm K) (hnt : f
 def normRingNorm (R : Type*) [NonUnitalNormedRing R] : RingNorm R :=
   { normAddGroupNorm R, normRingSeminorm R with }
 #align norm_ring_norm normRingNorm
+
+
+/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
+/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:388]:
```suggestion
/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
```

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:397]: The arrows are still there :)

Comment (amosturchet) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean]: ups sorry. Should be fixed now

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 9]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
 
+
+variable {R : Type*} [Ring R]
+
+/-- Two multiplicative ring norms `f, g` on `R` are equivalent if there exists a positive constant
+  `c` such that for all `x ∈ R`, `(f x)^c = g x`.
+  This could be generalised to RingNorm, but MulRingNorm does not extend this. -/
+
+def equiv (f : MulRingNorm R) (g : MulRingNorm R) :=
+  ∃ c : ℝ, 0 < c ∧ (λ x : R => (f x) ^ c) = g
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:331]:
```suggestion
  ∃ c : ℝ, 0 < c ∧ (fun x => (f x) ^ c) = g
```
In Lean4 we rather use `fun`. Lean should be able to infer the type of `x`.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 10]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
 instance : Inhabited (MulRingNorm R) :=
   ⟨1⟩
 
+
+variable {R : Type*} [Ring R]
+
+/-- Two multiplicative ring norms `f, g` on `R` are equivalent if there exists a positive constant
+  `c` such that for all `x ∈ R`, `(f x)^c = g x`.
+  This could be generalised to RingNorm, but MulRingNorm does not extend this. -/
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:328]: I am not sure I understand the sentence "This could be generalised to RingNorm, but MulRingNorm does not extend this". Do you plan to do this?

Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:328]: Yes, this is an old comment from the Lean 3 version of the project. We don't need to generalize it for Ostrowski, though, so we implemented the case we needed.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 11]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+def equiv (f : MulRingNorm R) (g : MulRingNorm R) :=
+  ∃ c : ℝ, 0 < c ∧ (fun x => (f x) ^ c) = g
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+  1. is reflexive-/
+lemma equiv_refl (f : MulRingNorm R) : equiv f f := by
+  exact ⟨1, by linarith, by simp only [Real.rpow_one]⟩
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+ 2. is symmetric-/
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:339]:
```suggestion
/-- Equivalence of multiplicative ring norms is symmetric. -/

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 12]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+lemma equiv_symm (f g : MulRingNorm R) (hfg : equiv f g) : equiv g f := by
+  rcases hfg with ⟨c, hcpos, h⟩
+  use 1/c
+  constructor
+  · simp only [one_div, inv_pos, hcpos]
+  ext x
+  simpa [← congr_fun h x] using Real.rpow_rpow_inv (apply_nonneg f x) (ne_of_lt hcpos).symm
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+ 3. is transitive-/
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:349]:
```suggestion
/-- Equivalence of multiplicative ring norms is transitive. -/

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 13]
```diff
@@ -344,3 +381,15 @@ def RingSeminorm.toRingNorm {K : Type*} [Field K] (f : RingSeminorm K) (hnt : f
 def normRingNorm (R : Type*) [NonUnitalNormedRing R] : RingNorm R :=
   { normAddGroupNorm R, normRingSeminorm R with }
 #align norm_ring_norm normRingNorm
+
+
+/-A multiplicative ring norm with value in the rationals satisfies `f n ≤ n` for every `n : ℕ`-/
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:386]:
```suggestion
/-- A multiplicative ring norm with values in `ℚ` satisfies `f n ≤ n` for every `n : ℕ`. -/

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 14]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+ 3. is transitive-/
+lemma equiv_trans (f g k : MulRingNorm R) (hfg : equiv f g) (hgk : equiv g k) :
+    equiv f k := by
+  rcases hfg with ⟨c, hcPos, hfg⟩
+  rcases hgk with ⟨d, hdPos, hgk⟩
+  refine ⟨c*d, (mul_pos_iff_of_pos_left hcPos).mpr hdPos, ?_⟩
+  ext x
+  rw [Real.rpow_mul (apply_nonneg f x), congr_fun hfg x, congr_fun hgk x]
+
+
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:358]:
```suggestion

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 15]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+  ∃ c : ℝ, 0 < c ∧ (fun x => (f x) ^ c) = g
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+  1. is reflexive-/
+lemma equiv_refl (f : MulRingNorm R) : equiv f f := by
+  exact ⟨1, by linarith, by simp only [Real.rpow_one]⟩
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+ 2. is symmetric-/
+lemma equiv_symm (f g : MulRingNorm R) (hfg : equiv f g) : equiv g f := by
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:340]: Should `f` and `g` be implicit here?

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 16]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+  rcases hfg with ⟨c, hcpos, h⟩
+  use 1/c
+  constructor
+  · simp only [one_div, inv_pos, hcpos]
+  ext x
+  simpa [← congr_fun h x] using Real.rpow_rpow_inv (apply_nonneg f x) (ne_of_lt hcpos).symm
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+ 3. is transitive-/
+lemma equiv_trans (f g k : MulRingNorm R) (hfg : equiv f g) (hgk : equiv g k) :
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:350]: Should `f`, `g` and `k` be implicit here?

**Review by grunweg — COMMENTED** [review]
I just saw this and had a few cosmetic suggestions. Thanks for your contribution!

**Comment by riccardobrasca** [comment]
Can you take into account the last comments and merge it? Thanks!

bors d+

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 17]
```diff
@@ -319,6 +320,42 @@ theorem apply_one (x : R) : (1 : MulRingNorm R) x = if x = 0 then 0 else 1 :=
...
+  `c` such that for all `x ∈ R`, `(f x)^c = g x`.
+  This could be generalised to RingNorm, but MulRingNorm does not extend this. -/
+
+def equiv (f : MulRingNorm R) (g : MulRingNorm R) :=
+  ∃ c : ℝ, 0 < c ∧ (fun x => (f x) ^ c) = g
+
+/- Equivalence of multiplicative ring norms is an equivalence relation
+  1. is reflexive-/
+lemma equiv_refl (f : MulRingNorm R) : equiv f f := by
+  exact ⟨1, by linarith, by simp only [Real.rpow_one]⟩
```
Comment (rosborn) [inline Mathlib/Analysis/Normed/Ring/Seminorm.lean:336]:
```suggestion
lemma equiv_refl (f : MulRingNorm R) : equiv f f :=
 ⟨1, by norm_num, by simp only [Real.rpow_one]⟩
```
`linarith` is a bit overkill.

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (amosturchet) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:328]: We decided to remove this sentence

**Comment by amosturchet** [comment]
bors merge
